US04794108
In 20 ml of tetrahydrofuran is dissolved 1.9 g [5.4 mmole) of (3S,4S)-1-benzyloxy-3-(tert-butoxycarbonylamino)-4-methoxycarbonyl -2-azetidinone obtained in the same manner as the method described in The Journll of Organic Chemistry, 48(1983), 3556-3559, and a solution of 410 mg (10.8 mmole) of sodium borohydride in 4 ml of water is added dropwise to the solution over the 10-minute period. After the addition is completed, the reaction solution is stirred under ice-cooling for 20 minutes, and 3 ml of 3N hydrochloric acid is added to stop the reaction. 10 ml of 0.6M aqueous potassium hydrogen sulfate solution is added, followed by extraction with ethyl acetate. The extract is washed with saturated aqueous sodium hydrogen carbonate solution and aqueous sodium chloride solution successively, and dried over anhydrous magnesium sulfate. The solvent is distilled off under reduced pressure, and the residue is purified by column chromatography (silica gel, 100 g;h-hexane-ethyl acetate, 2:1, then 1:1). The fractions containing the objective compound are collected the solvent is distilled off under reduced pressure, and after ether and n-hexane are added to the residue, the resulting crystals are recovered by filtration to give 200 mg (11.4%) of (3S,4S)-1-benzyloxy-3-(tert-butoxycarbonylamino)-4-hydroxymethyl-2-azetidinone.

reactant | sodium borohydride | 10.8 mmole, 410 mg | [BH4-].[Na+]
reactant | hydrochloric acid | 3N, 3 ml | Cl | ClH
reactant | potassium hydrogen sulfate | 0.6M, 10 ml | S(=O)(=O)(O)[O-].[K+]
reactant | (3S,4S)-1-benzyloxy-3-(tert-butoxycarbonylamino)-4-methoxycarbonyl -2-azetidinone | C(C1=CC=CC=C1)ON1C([C@H]([C@H]1C(=O)OC)NC(=O)OC(C)(C)C)=O | C17H22N2O6
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | water | 4 ml | O | H2O
product | (3S,4S)-1-benzyloxy-3-(tert-butoxycarbonylamino)-4-hydroxymethyl-2-azetidinone | 200 mg, 11.4% | C(C1=CC=CC=C1)ON1C([C@H]([C@H]1CO)NC(=O)OC(C)(C)C)=O | C16H22N2O5
